* C:\Users\Soldo\Documents\Uni\PSE-project\ideal_rc_osc\ideal_rc_osc.asc
R1 V0 Vc 1k
R2 V0 V+ 15k
R3 0 V+ 15k
C1 Vc 0 100µ
XU2 V+ Vc N001 N002 V0 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 N001 0 15
V2 N002 0 -15
.tran 0 200m 0 1m
.lib UniversalOpAmp2.lib
.backanno
.end
